US08865704B2
trans-4-(2,4-Dioxo-1,4-dihydro-2H-quinazolin-3-ylmethyl)cyclohexane carboxylic acid
To a solution of trans-4-(2,4-Dioxo-1,4-dihydro-2H-quinazolin-3-ylmethyl)-cyclohexanecarboxylic acid methyl ester (15 g, 51.7 mmol) in a mixture of THF (240 mL) and H2O (60 mL), LiOH was added and the reaction was heated at 85° C. for 16 hours. The mixture was allowed to cool down to room temperature and the solvent removed under reduced pressure. The residue was dissolved in 100 mL of H2O and the solution acidified to pH 3. The precipitate formed was filtered and washed with 100 mL of CH3CN. The titled compound (11.9 g, 79%) was obtained as a white solid.

reactant | trans-4-(2,4-Dioxo-1,4-dihydro-2H-quinazolin-3-ylmethyl)-cyclohexanecarboxylic acid methyl ester | 51.7 mmol, 15 g | COC(=O)[C@@H]1CC[C@H](CC1)CN1C(NC2=CC=CC=C2C1=O)=O | C17H20N2O4
reactant | LiOH | [Li+].[OH-]
solvent | THF | 240 mL | C1CCOC1 | C4H8O
solvent | H2O | 60 mL | O | H2O
product | trans-4-(2,4-Dioxo-1,4-dihydro-2H-quinazolin-3-ylmethyl)cyclohexane carboxylic acid | 11.9 g, 79% | O=C1NC2=CC=CC=C2C(N1C[C@@H]1CC[C@H](CC1)C(=O)O)=O | C16H18N2O4
